US06605624B1
Preparation of Methyl 5-(4-t-Butylphenylthiomethyl)-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (Compound 3)
Reaction of methyl 5-chloromethyl-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (example 3 of U.S. Pat. No. 5,169,432) with 4-t-butylbenzenethiol according to the procedure of example 29 of U.S. Pat. No. 5,169,432 yielded the product as an oil.

reactant | methyl 5-chloromethyl-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | ClCC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C | C14H15ClF5NO2
reactant | 4-t-butylbenzenethiol | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
product | Methyl 5-(4-t-Butylphenylthiomethyl)-2-(difluoromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | C(C)(C)(C)C1=CC=C(C=C1)SCC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C | C24H28F5NO2S
